US09126993B2
Using general procedure C, quinuclidin-3-amine (380 mg, 3.01 mmol), CDI (489 mg, 3.01 mmol) and 2-(3-methoxyphenyl)propan-2-amine (506 mg, 3.07 mmol) gave 1-(2-(3-methoxyphenyl)propan-2-yl)-3-(quinuclidin-3-yl)urea (560 mg, 59%) as a white solid. 1H NMR (400 MHz, CDCl3) δ 7.35-7.29 (m, 1H), 7.14-7.07 (m, 2H), 6.87-6.81 (ddd, 1H), 4.76 (s, 1H), 4.19 (d, 1H), 3.81 (s, 3H), 3.70-3.62 (m, 1H), 3.19-3.10 (m, 1H), 2.74-2.59 (m, 3H), 2.37-2.26 (m, 1H), 2.07-1.98 (dd, 1H), 1.80 (br s, 1H), 1.69-1.63 (m, 1H), 1.63 (s, 3H), 1.62 (s, 3H), 1.58-1.44 (m, 2H), 1.28-1.14 (m, 1H), 1.02-0.90 (m, 1H) ppm. 13C NMR (100 MHz, CDCl3) δ 160.0, 157.5, 148.4, 129.9, 117.7, 112.0, 111.9, 56.7, 55.3, 54.6, 47.2, 46.8, 46.4, 30.1, 25.8, 20.0 ppm. Purity: >99.4% UPLCMS (210 nm); retention time 1.73 min; (M+1) 318.

reactant | quinuclidin-3-amine | 3.01 mmol, 380 mg | N12CC(C(CC1)CC2)N | C7H14N2
reactant | CDI | 3.01 mmol, 489 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 2-(3-methoxyphenyl)propan-2-amine | 3.07 mmol, 506 mg | COC=1C=C(C=CC1)C(C)(C)N | C10H15NO
product | 1-(2-(3-methoxyphenyl)propan-2-yl)-3-(quinuclidin-3-yl)urea | 560 mg, 59% | COC=1C=C(C=CC1)C(C)(C)NC(=O)NC1CN2CCC1CC2 | C18H27N3O2
